US07666868B2
A5. [2-((E)-3-{1-[4-(1-Methyl-1H-pyrazol-4-yl)-benzenesulfonyl]-1H-pyrrol-3-yl}-allanoylamino)-phenyl]-carbamic acid tert-butyl ester
(2{(E)-3-[1-(4-Bromo-benzenesulfonyl)-1H-pyrrol-3-yl]-allanoylamino}-phenyl)-carbamic acid tert-butyl ester (3.0 g) and 1-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole (1.71 g) are dissolved in DME (93 mL), (Ph3P)3PdCl2 (580 mg) and 2M Na2CO3-solution (55 mL) are added and the resulting mixture is heated under reflux temperature under an inert gas atmosphere. The solution is filtered and evaporated. The residue is treated with water and dichloromethane. The organic phase is separated, dried and evaporated. The crude product is purified by silica gel flash chromatography. The title compound is obtained in 902 mg yield.

reactant | (2{(E)-3-[1-(4-Bromo-benzenesulfonyl)-1H-pyrrol-3-yl]-allanoylamino}-phenyl)-carbamic acid tert-butyl ester | 3.0 g | C(C)(C)(C)OC(NC1=C(C=CC=C1)NC(\C=C\C1=CN(C=C1)S(=O)(=O)C1=CC=C(C=C1)Br)=O)=O | C24H24BrN3O5S
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole | 1.71 g | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | Na2CO3 | 2M, 55 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 93 mL | COCCOC | C4H10O2
product | [2-((E)-3-{1-[4-(1-Methyl-1H-pyrazol-4-yl)-benzenesulfonyl]-1H-pyrrol-3-yl}-allanoylamino)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=CC=C1)NC(\C=C\C1=CN(C=C1)S(=O)(=O)C1=CC=C(C=C1)C=1C=NN(C1)C)=O)=O | C28H29N5O5S
